US05498716
A suspension of 30 mg of (±)-2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoic acid in 4.7 cm3 of distilled water and 1.32 cm3 of a 0.1N aqueous sodium hydroxide solution is stirred at a temperature of approximately 20° C. for 72 hours. An insoluble product is removed by filtration and the filtrate is acidified to a pH=2 by addition of a 0.1N aqueous hydrochloric acid solution. The precipitate obtained is separated by filtration, washed with water and dried in air. 10 mg of (±)-2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid are thus obtained whose characteristics are identical to those of the product of Example 1.

reactant | (±)-2-[2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-6-methyl-3-oxoheptanoic acid | 30 mg | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)C(C(=O)O)C(CCC(C)C)=O | C24H22ClN3O4
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | water | 4.7 cm3 | O | H2O
product | (±)-2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid | 10 mg | ClC1=CC=C2C=CC(=NC2=N1)NC(CC(CCC(C)C)=O)C1=C(C(=O)O)C=CC=C1 | C23H24ClN3O3
